US09403832B2
Part A. (S)-2-amino-1-(4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)-3-methoxypropan-1-one
3-Bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine (300 mg, 1.1 mmol) taken up in 10 mL DMF. Boc-Ser(Me)-OH (280 mg, 1.3 mmol), HATU (368 mg, 1.6 mmol), and triethylamine (590 uL, 4.25 mmol) was added and stirred at room temp overnight. Reaction was diluted with DCM and washed with water. DCM layer was dried over magnesium sulfate reduced in vacuo. This was then taken up in 30% TFA in DCM solution and stirred at room temperature for 2 hours. It was then cooled to 0° C. and conc Aq NaOH added slowly until aqueous layer remains basic. DCM layer extracted dried over magnesium sulfate, reduced in vacuo for 405 mg crude product for further reaction as is. LRMS (ESI) m/z 383/385 [(M+H)]+, calc'd for C14H19BrN6O2: 383.25.

reactant | 3-Bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine | 1.1 mmol, 300 mg | BrC=1C=NN2C1N=C(C=C2)N2CCNCC2 | C10H12BrN5
reactant | Boc-Ser(Me)-OH | 1.3 mmol, 280 mg | N([C@@H](COC)C(=O)O)C(=O)OC(C)(C)C | C9H17NO5
reactant | HATU | 1.6 mmol, 368 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.25 mmol, 590 uL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-1-(4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)-3-methoxypropan-1-one | N[C@H](C(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2Br)COC | C14H19BrN6O2
